US05576338
3-Fluoro-5-phenylthiophenol
To S-(2-trimethylsilylethyl)-3-fluoro-5-phenylthiophenol (2.4 g) in DMF (50 mL) was added Bu4NF (16 mL of a 1M THF solution). After 90 min., EtOAc was added and this solution was washed with 1N HCl, H2O and brine. Concentration and chromatography (silica gel; hexane/EtOAc (9:1)) provided the title compound as a liquid.

reactant | S-(2-trimethylsilylethyl)-3-fluoro-5-phenylthiophenol | 2.4 g | C[Si](CCSC1=CC(=CC(=C1)C1=CC=CC=C1)F)(C)C | C17H21FSSi
reactant | Bu4NF | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | THF | 1M | C1CCOC1 | C4H8O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-Fluoro-5-phenylthiophenol | FC=1C=C(C=C(C1)C1=CC=CC=C1)S | C12H9FS
